US07396849B2
6-Bromo-thiochroman-4-one (Intermediate-K2) (prepared according to the procedures found in Johnson, A. T. et al Bioorg Med. Chem. 1999, 7, 1321. incorporated herein by reference) (1.11 g, 4.6 mmol) in MeOH (46 mL) was treated with sodium borohydride (0.14 g, 4.6 mmol) at 0° C. for 30 m. The mixture was subjected to a standard aqueous work-up and the alcohol, 6-bromo-thiochroman-4-ol, was used in the next step without further purification. 6-Bromo-thiochroman-4-ol (˜4.5 mmol) in DMF (20 mL) was treated with imidazole (0.31 g) and TBSCl (0.69 g) at rt for 16 h. After an aqueous work-up the residue was purified by chromatography on silica gel with 10% EtOAc:hexanes to afford (6-bromo-thiochroman-4-yl-oxy)-tert-butyl-dimethyl-silane (Intermediate-K3) as a yellow oil, 1.06 g.

reactant | 6-Bromo-thiochroman-4-one | BrC=1C=C2C(CCSC2=CC1)=O | C9H7BrOS
reactant | sodium borohydride | 4.6 mmol, 0.14 g | [BH4-].[Na+]
reactant | 6-Bromo-thiochroman-4-ol | ˜4.5 mmol | BrC=1C=C2C(CCSC2=CC1)O | C9H9BrOS
reactant | imidazole | 0.31 g | N1C=NC=C1 | C3H4N2
reactant | TBSCl | 0.69 g | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
solvent | MeOH | 46 mL | CO | CH4O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | (6-bromo-thiochroman-4-yl-oxy)-tert-butyl-dimethyl-silane | BrC=1C=C2C(CCSC2=CC1)O[Si](C)(C)C(C)(C)C | C15H23BrOSSi
